US07030123B2
A solution of 5-hydroxy-2-amino-1-methyl-1H-indole-3-carbonitrile (100 mg; 0.53 mmol) and 3-nitrobenzyl bromide (130 mg; 0.6 mmol) in DMF (5 ml) was treated with Cs2CO3 (520 mg; 1.6 mmol) and the mixture was stirred for 2 hours. Water (80 ml) was added and the precipitate was filtered, taken up in methanol, filtered, washed and dried to give 5-(3-nitrobenzyloxy)-2-amino-1-methyl-1H-indole-3-carbonitrile (96 mg).

reactant | 5-hydroxy-2-amino-1-methyl-1H-indole-3-carbonitrile | 0.53 mmol, 100 mg | OC=1C=C2C(=C(N(C2=CC1)C)N)C#N | C10H9N3O
reactant | 3-nitrobenzyl bromide | 0.6 mmol, 130 mg | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | Cs2CO3 | 1.6 mmol, 520 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Water | 80 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(3-nitrobenzyloxy)-2-amino-1-methyl-1H-indole-3-carbonitrile | 96 mg | [N+](=O)([O-])C=1C=C(COC=2C=C3C(=C(N(C3=CC2)C)N)C#N)C=CC1 | C17H14N4O3
